US04223032
(d) 4,9-dihydro-7-methyl-9-oxo-1H-triazolo[4,5-b] quinoline
Cyclisation of 4-(p-tolylamino)-1,2,3-triazole-5-carboxylic acid (1 g) with 85% polyphosphoric acid (12 g) at 100° C. over 2 hrs. gave 0.66 g (72%) of the title compound of mp (EtOH-DMF-H2O) 310° C.; νmax (mull) 2720 (br.) 1655, 1600 cm-1, Δ (DMSO) 2.42 (3H, s); 7.58 (2H, s); 8.10 (1H,s), 1 low fieled broad (exchangeable). (Found; C, 59.89; H, 4.37; N, 28.09; C10H8N4O2 requires; C, 59.99 H, 4.03; N, 27.99%).

reactant | 4-(p-tolylamino)-1,2,3-triazole-5-carboxylic acid | 1 g | C1(=CC=C(C=C1)NC=1N=NNC1C(=O)O)C | C10H10N4O2
solvent | EtOH DMF H2O | CCO.CN(C)C=O.O
product | 4,9-dihydro-7-methyl-9-oxo-1H-triazolo[4,5-b] quinoline | 0.66 g, 72% | CC1=CC=2C(C3=C(NC2C=C1)N=NN3)=O | C10H8N4O
